US04064258
In this preparation a mixture containing 15 g. of 1-adamantyl acetic acid and 40 ml. of thionyl chloride is allowed to stand for 16 hours at room temperature. The excess thionyl chloride is then removed by evaporation, under reduced pressure, at 60° C affording adamant-1-yl acetyl chloride as an oil. The oil is then dissolved in 800 ml. of ethyl ether and then ammonia is bubbled through the solution until about 12.8 g. is absorbed. The solution is then washed twice with water, dried over anhydrous magnesium sulfate and filtered. The filtrate is evaporated under vacuum affording adamant-1-yl acetamide. 12.8 G. of adamant-1-yl acetamide is added to a mixture containing 3 g. of lithium aluminum hydride in 500 ml. of anhydrous tetrahydrofuran at 25°0 C and refluxed for 5 minutes. The mixture is cooled to 5° C, a slight excess of an aqueous saturated solution of sodium sulfate is added dropwise. Thereafter the tetrahydrofuran solution is dried over sodium sulfate, filtered and the solvent evaporated to dryness under vacuum. From the remaining oil, 2-(adamant-1-yl)ethylamine is distilled bulb to bulb, 10.1 g.

reactant | 1-adamantyl acetic acid | C12(CC3CC(CC(C1)C3)C2)CC(=O)O | C12H18O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | adamant-1-yl acetyl chloride | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
